US08053437B2
Preparation of tert-Butyl (S)-1-((3R,3aR,6aR)-3-hydroxydihydro-2H-furo[3,2-b]pyrrol-4(5H,6H,6aH)-yl)-4-dimethyl-1-oxopentan-2-ylcarbamate. A solution of (S)-tert-butyl 1-fluoro-4,4-dimethyl-1-oxopentan-2-ylcarbamate (0.69 g, 2.80 mmol) in dimethylformamide (10 mL) was added under argon to (3R,3aR,6aR)-hexahydro-2H-furo[3,2-b]pyrrol-3-ol hydrochloride (prepared as above with appropriate scaling of quantities, assumed to be 2.67 mmol). The mixture was stirred for 5.25 hours (a 0.2 mL aliquot was removed after 4.5 hours) then triethylamine (0.37 mL, 2.66 mmol) was added dropwise over 1 minute. The mixture was stirred for 15 minutes then the solvents removed in vacuo to leave a brown oily residue. Flash chromatography over silica, eluting with ethyl acetate:pentane mixtures 20:80 to 80:20 gave tert-butyl (S)-1-((3R,3aR,6aR)-3-hydroxydihydro-2H-furo[3,2-b]pyrrol-4(5H,6H, 6aH)-yl)-4,4-dimethyl-1-oxopentan-2-ylcarbamate as a white solid (540 mg, 57%). TLC (Rf=0.30, EtOAc:heptane 3:1), analytical HPLC doublet main peak, Rt=14.02 and 14.27 min., HPLC-MS 301.2 [M+2H-tBu]+, 357.3 [M+H]+, 379.2 [M+Na], 735.5 [2M+Na]+; [α]D16.5 −37.2° (c=4.97, CHCl3); δH (500 MHz, CDCl3) mixture of rotamers major:minor 3:2; 0.95 (9H, s, CH2C(CH3)3), 1.39 (9H, s, OC(CH3)3), 1.38-1.52 (1.4H, m, CH2C(CH3)3), 1.58 (0.6H, dd, J=14.63 and 9.24 Hz, CH2C (CH3)3), 1.74-1.82 (0.6H, m, NCH2CH2CH major), 2.03 (1H, dd, J=13.83 and 6.15 Hz, NCH2CH2CH major), 1.96-2.06 (0.4H, m, NCH2CH2CH minor), 2.15 (0.4H, dd, J=13.85 and 6.35 Hz, NCH2CH2CH minor), 3.06 (0.4H, d, J=2.08 Hz, OH minor), 3.21-3.27 (0.6H, m, NCH2CH2CH major), 3.39-3.46 (0.4H, m, NCH2CH2CH minor), 3.46-3.51 (0.6H, m, OCH2CHOH major), 3.61 (0.4H, dd, J=9.62 and 5.52 Hz, OCH2CHOH minor), 3.85 (0.6H, dd, J=11.89 and 8.52 Hz, NCH2CH2CH major), 3.91 (0.4H, brt, J=9.21 Hz, NCH2CH2CH minor), 4.02 (0.4H, dd, J=9.60 and 5.73 Hz, OCH2CHOH minor), 4.14-4.24 (2.6H, m, OCH2CHOHCH and 1×OCH2CHOH major), 4.48-4.53 (0.4H, m, CHCH2C(CH3)3 minor), 4.65-4.75 (1.6H, m, NCH2CH2CH and CHCH2C(CH3)3 major), 5.10 (0.4H, d, J=9.31 Hz, NH minor), 5.23 (0.6H, d, J=10.22 Hz, NH major), 5.53 (0.6H, d, J=4.93 Hz, OH major); δC (125 MHz, CDCl3) 28.26/28.35 (OC(CH3)3), 29.72/29.84 (CH2C(CH3)3), 29.96/31.57 (NCH2CH2CH), 30.54/30.63 (CH2C(CH3)3), 44.01/45.52 (NCH2CH2CH) 46.18/47.02 (CH2C(CH3)3), 49.32/49.41 (CHCH2C(CH3)3), 71.09/71.35 (NCH2CH2CHCH), 73.03/73.96 (OCH2CHOH), 77.21/79.61 (CHOH), 79.76/80.79 (OC(CH3)3), 81.02/83.43 (NCH2CH2CH), 155.24/156.10 (Boc C═O), 172.22/172.87 (CH2NC═O).

reactant | (S)-tert-butyl 1-fluoro-4,4-dimethyl-1-oxopentan-2-ylcarbamate | 2.80 mmol, 0.69 g | FC([C@H](CC(C)(C)C)NC(OC(C)(C)C)=O)=O | C12H22FNO3
reactant | (3R,3aR,6aR)-hexahydro-2H-furo[3,2-b]pyrrol-3-ol hydrochloride | 2.67 mmol | Cl.O1C[C@@H]([C@H]2NCC[C@H]21)O
reactant | triethylamine | 2.66 mmol, 0.37 mL | C(C)N(CC)CC | C6H15N
solvent | dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
product | tert-butyl (S)-1-((3R,3aR,6aR)-3-hydroxydihydro-2H-furo[3,2-b]pyrrol-4(5H,6H, 6aH)-yl)-4,4-dimethyl-1-oxopentan-2-ylcarbamate | 540 mg, 57% | O[C@H]1CO[C@H]2[C@@H]1N(CC2)C([C@H](CC(C)(C)C)NC(OC(C)(C)C)=O)=O | C18H32N2O5
